US06573388B1
A mixture of 1,4-dichlorobutan-2(S),3(S)-diol sulfate (57.2 mg, 0.258 mmol) and phthalimide potassium salt (51.4 mg, 0.272 mmol) in dry DMF (1.3 mL) was stirred under nitrogen atmosphere at rt for 1 h. Solvent was removed under reduced pressure. The residue was dissolved with dry THF (3 mL). To the resulting solution were added conc. H2SO4 (13 μl) and water (5 μl). After 30 min excess sodium bicarbonate (˜52 mg) was added and the reaction mixture was stirred for 30 min. Filtration through a Celite and silica gel bed and concentration of the filtrate under reduced pressure provided N-(1,4-Dichloro-2(S)-hydroxy-3(R)-butyl)phthalimide (77.8 mg) as a colorless oil.

reactant | 1,4-dichlorobutan-2(S),3(S)-diol sulfate | 0.258 mmol, 57.2 mg | S(=O)(=O)(O)O[C@H](CCl)[C@@H](CCl)O | C4H8Cl2O5S
reactant | phthalimide potassium salt | 0.272 mmol, 51.4 mg | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
product | N-(1,4-Dichloro-2(S)-hydroxy-3(R)-butyl)phthalimide | 77.8 mg | ClC[C@H]([C@H](CCl)N1C(C=2C(C1=O)=CC=CC2)=O)O | C12H11Cl2NO3
